US07141684B2
2,6-Diallylphenol (3.48 gm, 0.025 mol) was diluted with methanol (50 ml) and sodium hydroxide (0.8 gm 0.02 mol) was added to the solution followed by the benzyl chloride (3.60 gm, 0.2 mol.). The solution was refluxed for 2 hr, cooled, poured onto water and extracted with hexane. After washing with water and dilute sodium hydroxide, the organic layer was dried over MgSO4, filtered and evaporated to give 2,6-diallylphenyl benzyl ether. MS m/z 264 (M+ calcd for C19H20O=264). H NMR (300 MHz, CDCL3) d 3.45–3.55 (d, 4, CH2 allyl), 4.85 (s, 2, CH2 benzyl), 5.05–5.20 (m, 4, CH2 vinyl), 5.96–6.15 (m, 2, CH vinyl), 7.10–7.25 (m, 3, aromatic), 7.35–7.70 (m, 5, aromatic). Oxidation of the product as described in Example 1 gave 2,6-di(2,3-epoxyypropyl) phenyl benzyl ether as an oil. MS m/z 296 (M+ calcd for C+H20O3=296). H NMR (300 MHz, CDCl3) d 2.60–2.70 (m, 2, CH2 epoxypropyl), 2.75–3.10 (m, 6, CH2 epoxypropyl), 2.31–2.46 (m, 2, CH2 epoxypropyl), 4.75 (s, 2, CH2O), 7.10–7.25 (m, 1, aromatic) 7.45–7.60 (m, 2, aromatic), 7.60–8.15 (m, 5, aromatic).

reactant | 2,6-Diallylphenol | 0.025 mol, 3.48 gm | C(C=C)C1=C(C(=CC=C1)CC=C)O | C12H14O
reactant | sodium hydroxide | 0.02 mol, 0.8 gm | [OH-].[Na+]
reactant | benzyl chloride | 0.2 mol, 3.60 gm | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | methanol | 50 ml | CO | CH4O
product | 2,6-diallylphenyl benzyl ether | C(C1=CC=CC=C1)OC1=C(C=CC=C1CC=C)CC=C | C19H20O
